US09370522B2
Methyl 2-(4-methoxyphenyl)-3-phenylquinoline-7-carboxylate (40 mg, 0.11 mmol, 1.00 equiv), LiOH (13 mg, 0.54 mmol, 5.00 equiv), methanol (5 mL), and water (0.5 mL) were placed in a 50-mL round-bottom flask and stirred for 5 hr at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum, diluted with 10 mL of H2O, and the pH adjusted to 4-5 with 1N HCl. The resulting solids were collected by filtration and dried in an oven under reduced pressure, yielding 23 mg (59%) of 2-(4-methoxyphenyl)-3-phenylquinoline-7-carboxylic acid as a yellow solid.

reactant | Methyl 2-(4-methoxyphenyl)-3-phenylquinoline-7-carboxylate | 0.11 mmol, 40 mg, 1.00 equiv | COC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C=C1C1=CC=CC=C1)C(=O)OC | C24H19NO3
reactant | LiOH | 0.54 mmol, 13 mg, 5.00 equiv | [Li+].[OH-]
reactant | methanol | 5 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | 2-(4-methoxyphenyl)-3-phenylquinoline-7-carboxylic acid | 23 mg, 59% | COC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C=C1C1=CC=CC=C1)C(=O)O | C23H17NO3
